US05654315
A stirred mixture of 4-bromo-4'-ethoxybiphenyl (1.1 g), 3-ethynyl-3-hydroxyquinuclidine (600 mg), bis(triphenylphosphine)-palladium (II) chloride (140 mg), copper (I) iodide (70 mg) and dry triethylamine (5.0 ml) in dry dimethylformamide (20 ml) was stirred at 90° C. under an atmosphere of argon for 4 hours. The dimethylformamide and triethylamine were removed by evaporation and the residue was treated with saturated sodium carbomate solution (20 ml). The solid obtained was collected by filtration and crystallised from dimethylformamide to give 3-[2-(4'-ethoxybiphenyl-4-yl)ethynyl]quinuclidin-3-ol (300 mg) as a soild, m.p. 255°-256° C.; microanalysis, found C, 79.1; H, 7.3; N, 3.9; C23H25NO2 requires C, 79.5; H, 7.3; N, 4.03%; NMR (DMSO-d6): 1.2-1.4(3H, t), 1.52-1.71(1H, m), 1.8-2.0(3H, m), 2.6-2.98(5H, m), 3.05-3.2(1H, m), 4.0-4.16(2H, q), 5.51-5.62(1H, br), 6.95-7.05(2H, d), 7.4-7.5(2H, d) and 7.57-7.68(4H, m); m/z 348 (M+H).

reactant | 4-bromo-4'-ethoxybiphenyl | 1.1 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCC | C14H13BrO
reactant | 3-ethynyl-3-hydroxyquinuclidine | 600 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)-palladium (II) chloride | 140 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 70 mg | [Cu]I
product | 3-[2-(4'-ethoxybiphenyl-4-yl)ethynyl]quinuclidin-3-ol | 300 mg | C(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C#CC1(CN2CCC1CC2)O | C23H25NO2
